US07504393B2
(a) 3-(3-Hydroxyphenyl)-3-methylaminopropionic acid
3-Hydroxybenzaldehyde (25.7 g, 210 mmol) was dissolved in ethanol (70 ml), and malonic acid (25.7 g) and the acetic acid salt of methylamine (38.6 g) were added to the solution. The resulting mixture was heated under reflux for 3 hours. Crystals which precipitated in the reaction mixture were collected by filtration to afford the desired compound (24.1 g).

reactant | 3-Hydroxybenzaldehyde | 210 mmol, 25.7 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | malonic acid | 25.7 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | methylamine | 38.6 g | CN | CH5N
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 3-(3-Hydroxyphenyl)-3-methylaminopropionic acid | 24.1 g | OC=1C=C(C=CC1)C(CC(=O)O)NC | C10H13NO3
